US04109093
A mixture of 167 parts of p-nitrobenzoic acid and 93 parts of aniline is heated at 210° C. with the water formed during the reaction being distilled off. After heating for 3 hours, 18 parts of water have been collected, which shows that the reaction is ended. 242 parts of N-(4'-nitrobenzoyl)-aniline melting at 215° C. are obtained according to the instructions in the literature, i.e. a yield of 99% by weight. The infra-red spectrum confirms the formula of the product:

reactant | p-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | water | O | H2O
product | N-(4'-nitrobenzoyl)-aniline | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C13H10N2O3
